US07700655B2
(1) 5-Chloro-2-methoxy-β-phenylstyrene
Palladium acetate (21 mg, 7 mol %) was added to a solution of 2-bromo-4-chloroanisole (300 mg, 1.4 mmol), styrene (211 mg, 2 mmol), triethylamine (13 μL, 0.1 mmol) and triphenylphosphine (50 mg, 1.9 mmol) in acetonitrile (6 mL), and the mixture was refluxed for 8 hours under argon atmosphere. After the reaction mixture was cooled to room temperature, the solvent was concentrated under reduced pressure and the obtained residue was diluted with ethyl acetate (15 mL). After the solution was washed successively with 2N hydrochloric acid, water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=10:1) to give the title compound (118 mg, 35.6%) as a white powder.

reactant | 2-bromo-4-chloroanisole | 1.4 mmol, 300 mg | BrC1=C(C=CC(=C1)Cl)OC | C7H6BrClO
reactant | styrene | 2 mmol, 211 mg | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 0.1 mmol, 13 μL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 1.9 mmol, 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | Palladium acetate | 21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Chloro-2-methoxy-β-phenylstyrene | 118 mg, 35.6% | ClC=1C=CC(=C(C=CC2=CC=CC=C2)C1)OC | C15H13ClO
